*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.3
* < ILD_dielectric_const = 3.9
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_0 1 2 3 4 REF
C_C1 1 REF 1.0915791551286pf
C_C2 1 2 15.746317220486pf
C_C3 1 3 0.0237978395292pf
C_C4 1 4 0.2190132679205pf
C_C5 2 REF 1.2828952190273pf
C_C6 2 3 0.1108777762309pf
C_C7 3 REF 0.4759500598509pf
C_C8 3 4 6.2277119295715pf
C_C9 4 REF 0.4725793118193pf
L_L1 3 5 1.3013076566386nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_1 1 2 3 4 REF
C_C1 1 REF 0.8276549696502pf
C_C2 1 2 16.164007574033pf
C_C3 1 3 0.0226117881081pf
C_C4 1 4 0.2218941744487pf
C_C5 2 REF 1.0243165770133pf
C_C6 2 3 0.1122841534042pf
C_C7 3 REF 0.4757514560437pf
C_C8 3 4 4.6023529663911pf
C_C9 4 REF 0.4728774870387pf
L_L1 3 5 1.3026237236128nh
R_RL1 5 4 3.3488792724e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_2 1 2 3 4 REF
C_C1 1 REF 0.6318587924915pf
C_C2 1 2 16.580470331595pf
C_C3 1 3 0.0212970294979pf
C_C4 1 4 0.2254209013188pf
C_C5 2 REF 0.8355700618124pf
C_C6 2 3 0.1135425945736pf
C_C7 3 REF 0.4758309008526pf
C_C8 3 4 3.4677917065053pf
C_C9 4 REF 0.4730477149409pf
L_L1 3 5 1.3037190520215nh
R_RL1 5 4 2.0217236397e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_3 1 2 3 4 REF
C_C1 1 REF 0.4649049534256pf
C_C2 1 2 17.115294096643pf
C_C3 1 3 0.0194838877772pf
C_C4 1 4 0.2307012464101pf
C_C5 2 REF 0.6789302299624pf
C_C6 2 3 0.1150097242021pf
C_C7 3 REF 0.4762080465374pf
C_C8 3 4 2.4920567230366pf
C_C9 4 REF 0.4731635335546pf
L_L1 3 5 1.304826449206nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_4 1 2 3 4 REF
C_C1 1 REF 0.3432669648501pf
C_C2 1 2 17.786657184777pf
C_C3 1 3 0.0171293027732pf
C_C4 1 4 0.2380525021251pf
C_C5 2 REF 0.5706146182224pf
C_C6 2 3 0.116734039092pf
C_C7 3 REF 0.4768778582108pf
C_C8 3 4 1.7107195762044pf
C_C9 4 REF 0.4732587834905pf
L_L1 3 5 1.3059315358661nh
R_RL1 5 4 -1.152815947e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_5 1 2 3 4 REF
C_C1 1 REF 0.2782716189705pf
C_C2 1 2 18.513727194018pf
C_C3 1 3 0.0145700287613pf
C_C4 1 4 0.246514654191pf
C_C5 2 REF 0.5195899743567pf
C_C6 2 3 0.1185576166107pf
C_C7 3 REF 0.477655240829pf
C_C8 3 4 1.1943110249091pf
C_C9 4 REF 0.473372974201pf
L_L1 3 5 1.3068221858082nh
R_RL1 5 4 -2.610692309e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_6 1 2 3 4 REF
C_C1 1 REF 0.2467046580975pf
C_C2 1 2 19.309836466263pf
C_C3 1 3 0.0118046889051pf
C_C4 1 4 0.2560344617838pf
C_C5 2 REF 0.5025546968234pf
C_C6 2 3 0.1205814734325pf
C_C7 3 REF 0.4784399125401pf
C_C8 3 4 0.8410843737287pf
C_C9 4 REF 0.4735404073976pf
L_L1 3 5 1.3075518590177nh
R_RL1 5 4 -3.853870953e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_7 1 2 3 4 REF
C_C1 1 REF 0.2328510049904pf
C_C2 1 2 20.344825683596pf
C_C3 1 4 0.268521998385pf
C_C4 2 REF 0.5066582682857pf
C_C5 2 3 0.1233147681691pf
C_C6 3 REF 0.47928428323pf
C_C7 3 4 0.5597387476116pf
C_C8 4 REF 0.4738124503474pf
L_L1 3 5 1.3082376633265nh
R_RL1 5 4 -5.013068107e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_8 1 2 3 4 REF
C_C1 1 REF 0.2302021120611pf
C_C2 1 2 21.662889501538pf
C_C3 1 4 0.2843822688018pf
C_C4 2 REF 0.525987681086pf
C_C5 2 3 0.1269803051856pf
C_C6 3 REF 0.480088732914pf
C_C7 3 4 0.3435869688779pf
C_C8 4 REF 0.4741916749796pf
L_L1 3 5 1.3088819372557nh
R_RL1 5 4 -6.011478536e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_9 1 2 3 4 REF
C_C1 1 REF 0.2322343171654pf
C_C2 1 2 23.35848538381pf
C_C3 1 4 0.3045566496161pf
C_C4 2 REF 0.5554350925022pf
C_C5 2 3 0.1319941449076pf
C_C6 3 REF 0.4807462202454pf
C_C7 3 4 0.1847695250153pf
C_C8 4 REF 0.4746538277043pf
L_L1 3 5 1.3094426758445nh
R_RL1 5 4 -6.681310015e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_10 1 2 3 4 REF
C_C1 1 REF 0.2327967378562pf
C_C2 1 2 25.521987538658pf
C_C3 1 4 0.3298724174979pf
C_C4 2 REF 0.5901216498882pf
C_C5 2 3 0.138779013921pf
C_C6 3 REF 0.4811669130841pf
C_C7 3 4 0.0702375491252pf
C_C8 4 REF 0.4751344090966pf
L_L1 1 5 65.393596481708nh
R_RL1 5 2 3.7807220969239
L_L2 3 6 1.3099093100458nh
R_RL2 6 4 -6.926124888e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_11 1 2 3 4 REF
C_C1 1 REF 0.2271451332967pf
C_C2 1 2 28.359191359173pf
C_C3 1 4 0.3623837151492pf
C_C4 2 REF 0.628028772465pf
C_C5 2 3 0.148167504261pf
C_C6 3 REF 0.4812779762262pf
C_C7 4 REF 0.4755655609941pf
L_L1 1 5 41.346138613938nh
R_RL1 5 2 -0.319941205008
L_L2 3 6 1.3102052718673nh
R_RL2 6 4 -6.61903573e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_12 1 2 3 4 REF
C_C1 1 REF 0.2118149661183pf
C_C2 1 2 32.153430629224pf
C_C3 1 4 0.4049596960883pf
C_C4 2 REF 0.669262544898pf
C_C5 2 3 0.1612375182335pf
C_C6 3 REF 0.4810636872606pf
C_C7 4 REF 0.4759034001536pf
L_L1 1 5 25.752260649362nh
R_RL1 5 2 -1.646753070164
L_L2 3 6 1.3100110913354nh
R_RL2 6 4 -5.704710202e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_13 1 2 3 4 REF
C_C1 1 REF 0.1821175923368pf
C_C2 1 2 37.551992432809pf
C_C3 1 4 0.4644268066676pf
C_C4 2 REF 0.7176766436054pf
C_C5 2 3 0.1803299322435pf
C_C6 3 REF 0.4805271985394pf
C_C7 4 REF 0.476156307156pf
R_R1 1 2 534.09730734613
L_L1 1 5 15.656269656334nh
R_RL1 5 2 -1.361916759257
L_L2 3 6 1.3096457000907nh
R_RL2 6 4 -4.174998503e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_14 1 2 3 4 REF
C_C1 1 REF 0.1308304307353pf
C_C2 1 2 45.685121723981pf
C_C3 1 4 0.552924806251pf
C_C4 2 REF 0.7814176312288pf
C_C5 2 3 0.2094363857048pf
C_C6 3 REF 0.4797090084743pf
C_C7 4 REF 0.4764162382529pf
R_R1 1 2 296.58375774417
L_L1 1 5 9.3230647292876nh
R_RL1 5 2 -0.262358521821
L_L2 3 6 1.3090741661282nh
R_RL2 6 4 -2.039196625e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_15 1 2 3 4 REF
C_C1 1 REF 0.0393246233442pf
C_C2 1 2 59.336842645627pf
C_C3 1 4 0.7005674319047pf
C_C4 2 REF 0.8804673832768pf
C_C5 2 3 0.2583969178585pf
C_C6 3 REF 0.4786120724689pf
C_C7 4 REF 0.4769182878805pf
R_R1 1 2 183.67395481868
L_L1 1 5 5.5000681553854nh
R_RL1 5 2 -0.861945677619
L_L2 3 6 1.3080834632411nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_16 1 2 3 4 REF
C_C1 1 2 87.733124413369pf
C_C2 1 4 1.0072495959095pf
C_C3 2 REF 1.0800570990843pf
C_C4 2 3 0.3599611842495pf
C_C5 3 REF 0.4770398279405pf
C_C6 4 REF 0.4783662424782pf
R_R1 1 2 112.49728558861
L_L1 1 5 2.3443372854042nh
R_RL1 5 2 -0.312477944186
L_L2 1 6 95.876555778209nh
R_RL2 6 3 -0.293502846007
L_L3 1 7 95.108594477485nh
R_RL3 7 4 -0.294528142932
L_L4 2 8 95.894954595339nh
R_RL4 8 3 0.0047744370164
L_L5 2 9 95.129366368272nh
R_RL5 9 4 0.0047566526642
L_L6 3 10 1.306089781831nh
R_RL6 10 4 3.1856751434e-5
Kn_K1 L_L1 L_L2 0.0775714601297
Kn_K2 L_L1 L_L3 0.0778045463581
Kn_K3 L_L1 L_L4 -0.078791123885
Kn_K4 L_L1 L_L5 -0.079186992333
Kn_K5 L_L2 L_L3 0.993169331154
Kn_K6 L_L2 L_L4 0.9877753665859
Kn_K7 L_L2 L_L5 0.9808834899979
Kn_K8 L_L2 L_L6 -0.092671613572
Kn_K9 L_L3 L_L4 0.9809089088216
Kn_K10 L_L3 L_L5 0.9876768224653
Kn_K11 L_L3 L_L6 0.0241412406239
Kn_K12 L_L4 L_L5 0.9931706806638
Kn_K13 L_L4 L_L6 -0.092556700755
Kn_K14 L_L5 L_L6 0.0242450527853
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_17 1 2 3 4 REF
C_C1 1 2 166.87297921367pf
C_C2 1 4 1.8627121205664pf
C_C3 2 REF 1.6319999563931pf
C_C4 2 3 0.6420755799577pf
C_C5 3 REF 0.4741816129165pf
C_C6 4 REF 0.4835272219221pf
R_R1 1 2 57.72203656447
L_L1 1 5 0.8339113951652nh
R_RL1 5 2 -0.096184829653
L_L2 1 6 39.141690686781nh
R_RL2 6 3 -0.073573865594
L_L3 1 7 38.428486246448nh
R_RL3 7 4 -0.074523346477
L_L4 2 8 39.239116136956nh
R_RL4 8 3 0.0014644894654
L_L5 2 9 38.529350021392nh
R_RL5 9 4 0.0014823688904
L_L6 3 10 1.3007083423273nh
R_RL6 10 4 5.6347596619e-5
Kn_K1 L_L1 L_L2 0.0644547195459
Kn_K2 L_L1 L_L3 0.0647463960775
Kn_K3 L_L1 L_L4 -0.081406152046
Kn_K4 L_L1 L_L5 -0.082455831732
Kn_K5 L_L2 L_L3 0.9832734118325
Kn_K6 L_L2 L_L4 0.9893615347387
Kn_K7 L_L2 L_L5 0.9725031285669
Kn_K8 L_L2 L_L6 -0.141124010425
Kn_K9 L_L3 L_L4 0.9726132035715
Kn_K10 L_L3 L_L5 0.9891648978991
Kn_K11 L_L3 L_L6 0.0415493427457
Kn_K12 L_L4 L_L5 0.9833155585634
Kn_K13 L_L4 L_L6 -0.140708065841
Kn_K14 L_L5 L_L6 0.0417377683651
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_18 1 2 3 4 REF
C_C1 1 2 654.30447554851pf
C_C2 1 4 7.137350625743pf
C_C3 2 REF 5.032220201523pf
C_C4 2 3 2.3765653780266pf
C_C5 3 REF 0.4612334147731pf
C_C6 4 REF 0.5194637038288pf
R_R1 1 2 12.792906847527
L_L1 1 5 17.102898506435nh
R_RL1 5 REF -0.276784227579
L_L2 1 6 0.1438146825983nh
R_RL2 6 2 -0.017533651933
L_L3 1 7 8.3522772466174nh
R_RL3 7 3 -0.010563779528
L_L4 1 8 7.693194771436nh
R_RL4 8 4 -0.011435461621
L_L5 2 9 17.009708820704nh
R_RL5 9 REF -0.29653020391
L_L6 2 10 8.3846265065864nh
R_RL6 10 3 -4.993772779e-4
L_L7 2 11 7.7301171031349nh
R_RL7 11 4 -3.613409706e-4
L_L8 3 12 25.296160682537nh
R_RL8 12 REF -0.296832397766
L_L9 3 13 1.2680560079292nh
R_RL9 13 4 5.8080396462e-5
L_L10 4 14 24.629117240177nh
R_RL10 14 REF -0.297572205428
Kn_K1 L_L1 L_L2 0.0755596403823
Kn_K2 L_L1 L_L5 0.995787835032
Kn_K3 L_L1 L_L8 0.8184344632651
Kn_K4 L_L1 L_L10 0.8292495237615
Kn_K5 L_L2 L_L3 0.0508517738413
Kn_K6 L_L2 L_L4 0.0508114578479
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.080212776844
Kn_K9 L_L2 L_L7 -0.08570821648
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9217490297487
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9914091823214
Kn_K15 L_L3 L_L7 0.9126089724203
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.296081491131
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9133145905091
Kn_K21 L_L4 L_L7 0.9906783380294
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0974868056592
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.817647319017
Kn_K26 L_L5 L_L10 0.8283395474852
Kn_K27 L_L6 L_L7 0.9220716667696
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.294808533335
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0979840320499
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1708349678407
Kn_K35 L_L8 L_L10 0.9746879230007
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_19 1 2 3 4 REF
C_C1 1 REF 13.041645183667pf
C_C2 1 3 6.4988028289612pf
C_C3 2 4 19.58871052208pf
C_C4 3 REF 0.5214737701585pf
C_C5 4 REF 0.3330619594795pf
R_R1 1 2 -8.127922318344
R_R2 1 4 -722.3985487775
R_R3 2 4 723.88392133639
L_L1 1 5 4.8326545839219nh
R_RL1 5 REF -0.022351631888
L_L2 1 6 0.3164211110131nh
R_RL2 6 2 0.2082549700335
L_L3 1 7 3.0578102719271nh
R_RL3 7 3 0.0993711239632
L_L4 1 8 2.5002077257595nh
R_RL4 8 4 0.1297844862162
L_L5 2 9 5.1113320599158nh
R_RL5 9 REF 0.2094948726944
L_L6 2 10 2.9656521593157nh
R_RL6 10 3 0.020005142537
L_L7 2 11 2.3575795059521nh
R_RL7 11 4 0.0092610839738
L_L8 3 12 7.8899648930652nh
R_RL8 12 REF 0.0923020214998
L_L9 3 13 1.1812857605672nh
R_RL9 13 4 0.0020961419014
L_L10 4 14 7.3410372408783nh
R_RL10 14 REF 0.1249962726935
Kn_K1 L_L1 L_L2 0.0152611803714
Kn_K2 L_L1 L_L5 0.9685600734994
Kn_K3 L_L1 L_L8 0.7825874453639
Kn_K4 L_L1 L_L10 0.8120473162788
Kn_K5 L_L2 L_L3 0.2076865107643
Kn_K6 L_L2 L_L4 0.258052809072
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.115753677505
Kn_K9 L_L2 L_L7 -0.100608833388
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0412756595341
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7914558037954
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9475794812077
Kn_K16 L_L3 L_L7 0.7389583710877
Kn_K17 L_L3 L_L8 0.9838309625119
Kn_K18 L_L3 L_L9 -0.457466123811
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7193680313618
Kn_K22 L_L4 L_L7 0.9352663300199
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.181454828488
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0240175851196
Kn_K27 L_L5 L_L7 0.0184184524297
Kn_K28 L_L5 L_L8 0.7901521064723
Kn_K29 L_L5 L_L9 -0.01203492856
Kn_K30 L_L5 L_L10 0.823989206196
Kn_K31 L_L6 L_L7 0.7832152722949
Kn_K32 L_L6 L_L8 1.0
Kn_K33 L_L6 L_L9 -0.478002044277
Kn_K34 L_L6 L_L10 1.0
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.1717415817934
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.2833705146025
Kn_K39 L_L8 L_L10 0.9230416807046
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_20 1 2 3 4 REF
C_C1 1 2 553.91326214271pf
C_C2 1 4 6.044746209882pf
C_C3 2 REF 4.3283972947378pf
C_C4 2 3 2.0201040671229pf
C_C5 3 REF 0.4625756928072pf
C_C6 4 REF 0.5102767252933pf
R_R1 1 2 58.034192612938
L_L1 1 5 14.160426306384nh
R_RL1 5 REF -0.141160146365
L_L2 1 6 0.0799094057525nh
R_RL2 6 2 -2.545642077e-3
L_L3 1 7 6.9018205772665nh
R_RL3 7 3 -1.423077744e-3
L_L4 1 8 6.2442425176242nh
R_RL4 8 4 -1.634049144e-3
L_L5 2 9 14.044173189824nh
R_RL5 9 REF -0.143803759258
L_L6 2 10 6.9443242698182nh
R_RL6 10 3 3.3771137227e-4
L_L7 2 11 6.2940525642726nh
R_RL7 11 4 2.9167569663e-4
L_L8 3 12 20.936620984498nh
R_RL8 12 REF -0.14745052129
L_L9 3 13 1.2575652634598nh
R_RL9 13 4 4.6036290289e-5
L_L10 4 14 20.270862541335nh
R_RL10 14 REF -0.147809072838
Kn_K1 L_L1 L_L2 0.092203822685
Kn_K2 L_L1 L_L5 0.9971752658036
Kn_K3 L_L1 L_L8 0.8187553215488
Kn_K4 L_L1 L_L10 0.8318505253551
Kn_K5 L_L2 L_L3 0.0251841420909
Kn_K6 L_L2 L_L4 0.0213053376407
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082164449121
Kn_K9 L_L2 L_L7 -0.091455742018
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.011524086344
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.9054725182279
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9942334458
Kn_K16 L_L3 L_L7 0.8990448610608
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.325030552566
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.9004117770597
Kn_K22 L_L4 L_L7 0.9936346133103
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1070549726855
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8175078863611
Kn_K27 L_L5 L_L10 0.8303652594267
Kn_K28 L_L6 L_L7 0.9060998598045
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.322798123835
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1079290189364
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.1874147755339
Kn_K36 L_L8 L_L10 0.9696086685532
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_21 1 2 3 4 REF
C_C1 1 2 89.236063589931pf
C_C2 1 4 1.0127312641306pf
C_C3 2 REF 1.0882922189802pf
C_C4 2 3 0.3664101156606pf
C_C5 3 REF 0.4738931138385pf
C_C6 4 REF 0.4747069022383pf
R_R1 1 2 157.02896316837
L_L1 1 5 0.3584486629064nh
R_RL1 5 2 -0.022539461037
L_L2 1 6 37.287329662575nh
R_RL2 6 3 0.0058697761985
L_L3 1 7 36.522028169904nh
R_RL3 7 4 0.0054505654335
L_L4 2 8 37.60985829434nh
R_RL4 8 3 0.0019585002173
L_L5 2 9 36.853273112938nh
R_RL5 9 4 0.0019673668052
L_L6 3 10 1.2971217777983nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L4 -0.092733853119
Kn_K2 L_L1 L_L5 -0.094880002809
Kn_K3 L_L2 L_L3 0.9824788662928
Kn_K4 L_L2 L_L4 0.9952233516837
Kn_K5 L_L2 L_L5 0.9775690433242
Kn_K6 L_L2 L_L6 -0.148278023331
Kn_K7 L_L3 L_L4 0.9778900995119
Kn_K8 L_L3 L_L5 0.9951249996537
Kn_K9 L_L3 L_L6 0.0386337694552
Kn_K10 L_L4 L_L5 0.9826310717628
Kn_K11 L_L4 L_L6 -0.147016898011
Kn_K12 L_L5 L_L6 0.0390900925563
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_22 1 2 3 4 REF
C_C1 1 REF 0.2608047792531pf
C_C2 1 2 32.334552562002pf
C_C3 1 4 0.3955772882513pf
C_C4 2 REF 0.6973785604971pf
C_C5 2 3 0.1624867801164pf
C_C6 3 REF 0.4749510091201pf
C_C7 4 REF 0.4698919396151pf
R_R1 1 2 375.97968945388
L_L1 1 5 0.7618090972653nh
R_RL1 5 2 0.0048925371016
L_L2 3 6 1.3021039741349nh
R_RL2 6 4 -3.579652662e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_23 1 2 3 4 REF
C_C1 1 REF 0.3820076162233pf
C_C2 1 2 15.736858348408pf
C_C3 1 3 0.043741600161pf
C_C4 1 4 0.2156341485123pf
C_C5 2 REF 0.5904290626338pf
C_C6 2 3 0.1012450313664pf
C_C7 3 REF 0.4744586502038pf
C_C8 4 REF 0.4676361073412pf
L_L1 1 5 1.1209389297869nh
R_RL1 5 2 -0.018014534299
L_L2 3 6 1.3011291919207nh
R_RL2 6 4 -7.0931908e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_24 1 2 3 4 REF
C_C1 1 REF 0.4312507734175pf
C_C2 1 2 9.3138684835568pf
C_C3 1 3 0.0732112313151pf
C_C4 1 4 0.1464344585854pf
C_C5 2 REF 0.5554017972751pf
C_C6 2 3 0.0756035822012pf
C_C7 2 4 0.0125930948209pf
C_C8 3 REF 0.4727397486127pf
C_C9 4 REF 0.4650895634581pf
L_L1 1 5 1.659032614596nh
R_RL1 5 2 -6.122510269e-3
L_L2 3 6 1.2988963075132nh
R_RL2 6 4 -1.333924928e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_25 1 2 3 4 REF
C_C1 1 REF 0.4581297502658pf
C_C2 1 2 6.7085240341027pf
C_C3 1 3 0.0912915185507pf
C_C4 1 4 0.1155331819659pf
C_C5 2 REF 0.5477936617674pf
C_C6 2 3 0.0620096372822pf
C_C7 2 4 0.0481681215974pf
C_C8 3 REF 0.4707727382296pf
C_C9 4 REF 0.4626215167165pf
L_L1 1 5 1.8566350105917nh
R_RL1 5 2 -2.491412696e-3
L_L2 3 6 1.2960740172623nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_26 1 2 3 4 REF
C_C1 1 REF 0.4699980388514pf
C_C2 1 2 5.9704597843969pf
C_C3 1 3 0.101916839925pf
C_C4 1 4 0.1040142485025pf
C_C5 2 REF 0.5496802493419pf
C_C6 2 3 0.0547094108435pf
C_C7 2 4 0.0631156967891pf
C_C8 3 REF 0.4694013252401pf
C_C9 4 REF 0.4610032237865pf
L_L1 1 5 1.9337247186508nh
R_RL1 5 2 -0.045896723259
L_L2 3 6 1.2948912524081nh
R_RL2 6 4 -1.029543818e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param27_26

